US07642264B2
2-(3-Bromo-phenyl)-4-(3,4-dichloro-phenyl)-6-methyl-pyridine
The title compound was prepared from 4-(3,4-dichloro-phenyl)-2-iodo-6-methylpyridine (example A.52) (5.5 g, ca. 60% pure, ca. 9 mmol) and commercially available 3-bromo-benzene-boronic acid (1.82 g, 9.1 mmol) according to the general procedure IVb. Obtained as a white solid (1.3 g, 36%). MS (ISP) 391.9 [(M+H)+], 394.0 [(M+2+H)+], 396.0 [(M+4+H)+] and 398.0 [(M+6+H)+].

reactant | 4-(3,4-dichloro-phenyl)-2-iodo-6-methylpyridine | ca. 9 mmol, 5.5 g | ClC=1C=C(C=CC1Cl)C1=CC(=NC(=C1)C)I | C12H8Cl2IN
reactant | 3-bromo-benzene-boronic acid | 9.1 mmol, 1.82 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-4-(3,4-dichloro-phenyl)-6-methyl-pyridine | BrC=1C=C(C=CC1)C1=NC(=CC(=C1)C1=CC(=C(C=C1)Cl)Cl)C | C18H12BrCl2N
